US06124354
2-(Diisopropylamino)ethyl 1-phenyl-4,4-ethylenedioxycyclohexanecarboxylate Hydrochloride
2-(Diisopropylamino)ethyl 1-phenyl-4-oxocyclohexanecarboxylate hydrochloride (3 mmol), prepared in Example 119, was refluxed for 4 h with p-toluenesulfonic acid (1.5 mmol) and ethyleneglycol (4 mmol) in toluene (50 mL) using a Dean-Stark trap. The reaction mixture was partitioned between Et2O and 2 M NaHCO3. The organic layer was dried (Na2SO4) and evaporated. The residue was dissolved in Et2O and HCl (g)/Et2O was added. The amine salt was recrystallized from acetone/Et2O to yield 0.53 g (43%); mp 121-128° C.; 1H NMR (CD3OD) δ 1.25 (d, 12H), 1.72 (m, 4H), 2.13 (m, 2H), 2.47 (m, 2H), 3.35 (t, 2H), 3.59 (m, 2H), 3.93 (m, 4H), 4.42 (t, 2H), 7.26-7.47 (m, 5H).

reactant | 2-(Diisopropylamino)ethyl 1-phenyl-4-oxocyclohexanecarboxylate hydrochloride | 3 mmol | Cl.C1(=CC=CC=C1)C1(CCC(CC1)=O)C(=O)OCCN(C(C)C)C(C)C
reactant | p-toluenesulfonic acid | 1.5 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyleneglycol | 4 mmol | C(CO)O | C2H6O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Diisopropylamino)ethyl 1-phenyl-4,4-ethylenedioxycyclohexanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC2(CC1)OCCO2)C(=O)OCCN(C(C)C)C(C)C | InChI=1S/C23H35NO4.ClH/c1-18(2)24(19(3)4)14-15-26-21(25)22(20-8-6-5-7-9-20)10-12-23(13-11-22)27-16-17-28-23;/h5-9,18-19H,10-17H2,1-4H3;1H
